US08530397B2
Preparation of N,N,N′-tricyclohexyl-N′-methoxypropionyl-para-phenylenediamine
A 100 ml 3-neck flask was fitted with an overhead stirrer, a thermocouple and a nitrogen inlet. The flask was charged with N,N,N′-tricyclohexyl-para-phenylenediamine (27.1 g), methyl acrylate (150 ml) and glacial acetic acid (10 ml). The reaction was stirred at 82° C. until complete. The reaction mass was taken up in xylenes, extracted with aqueous sodium hydroxide and washed three times with water. Solvent was removed by rotary evaporation. The reaction mass was taken up in hexanes. Some polymer precipitated and was removed. Solvent was removed by rotary evaporation. The product was taken up in xylenes and filtered. Solvent was removed by rotary evaporation. Remaining volatiles were removed by vacuum distillation (29″, 196° C.) to yield a viscous, dark yellow liquid.

reactant | N,N,N′-tricyclohexyl-para-phenylenediamine | 27.1 g | C1(CCCCC1)N(C1=CC=C(C=C1)NC1CCCCC1)C1CCCCC1 | C24H38N2
reactant | methyl acrylate | 150 ml | C(C=C)(=O)OC | C4H6O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N,N,N′-tricyclohexyl-N′-methoxypropionyl-para-phenylenediamine | C1(CCCCC1)N(C1=CC=C(C=C1)N(C(CCOC)=O)C1CCCCC1)C1CCCCC1 | C28H44N2O2
